US04576952
7-(4-Hydroxyanilino)-5-methyl-1H-pyrazolo[4,3-b]pyridine (E4)
7-Chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine (0.5 g, 3 mmol) and 4-aminophenol (0.65 g, 6 mmol) in dry xylene (5 ml) were heated under reflux under nitrogen for 7 h. The resulting solid was collected and washed with water and ethyl acetate, then crystallised from methanol/ethyl acetate to give the hydrochloride salt of the required product (393 mg, 47%), m.p. 308°-310° C. (dec.).

reactant | 7-Chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine | 3 mmol, 0.5 g | ClC1=C2C(=NC(=C1)C)C=NN2 | C7H6ClN3
reactant | 4-aminophenol | 6 mmol, 0.65 g | NC1=CC=C(C=C1)O | C6H7NO
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(4-Hydroxyanilino)-5-methyl-1H-pyrazolo[4,3-b]pyridine | 393 mg, 47% | OC1=CC=C(NC2=C3C(=NC(=C2)C)C=NN3)C=C1 | C13H12N4O
